data/specific_train_final.csv
"[H:20][O:21][O].C=C(CO[N+](=O)[O-])C(CO)O[O:10]>>[H:20][O:10]OC(CO)C(=C)CO[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:21](=O)/C=C\C1(C(O1)(CC)C=O)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC1(C(O1)(C)/C=C\[C:21]=O)C=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C)C(C)O[O:10]>>[H:20][O:10]OC(C)C(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)C(=O)O[O:20].[N:10]=O>>CC(C)C(=O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C/C(=C\CO)/C[O:20][O:21]N=O>>C/C(=C\CO)/C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:10][C:9]1([CH:6]2[CH2:5][CH2:4][C:3]([CH:8]1[CH2:7]2)([CH2:2][OH:1])[O:12])[CH3:11].[N:14](=[O:13])[O:15]>>[CH3:10][C:9]1([CH:6]2[CH2:5][CH2:4][C:3]([CH:8]1[CH2:7]2)([CH2:2][OH:1])[O:12])[CH3:11].[N+:14](=[O:13])[O-:15] 14-15,Room Temperature,Propagation,ha resonance
"CCC(=O)[CH:21]=[CH:20]C1(C(O1)C=O)C.[OH:10]>>CCC(=O)[CH:21][CH:20](C1(C(O1)C=O)C)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:7][C:6]([CH3:8])([CH2:9][OH:10])[O:5][O:4][O:3][N+:2](=[O:1])[O-:11]>>[CH3:7][C:6]([CH3:8])([CH2:9][OH:10])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:11] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"CCCC(OCCO)O[O:20].O[O:10]>>CCCC(OCCO)O[O:20][O:10]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC(C)CO[O:10]>>[H:20][O:10]OCC(C)CC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]([CH2:7][O:8][N+:9](=[O:11])[O-:10])[CH:3]([CH:5]=[O:6])[OH:4].[O:12][O:13]>>[CH3:1][C:2]([CH2:7][O:8][N+:9](=[O:11])[O-:10])([CH:3]([CH:5]=[O:6])[OH:4])[O:12][O:13] 2-2,12;12-12,2",Room Temperature,Termination,recombine
"[H:20][O:21][O].C(C=O)O[O:10]>>[H:20][O:10]OCC=O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=C)C(C[O:21][O:20][O])O.[N+](=O)[O-]>>CC(=C)C(C[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:17][O:16][O:15][CH2:14][CH:12]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9][N:10]=[O:11])[OH:13]>>[H:17][O:16][O:15][CH2:14][CH:12]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8])[OH:13].[N:10](=[O:11])[O:9] 8,9-8; 8,9-9",Room Temperature,Initiation,homolyze
"[CH3:1][C:2]1=[C:3]([C:5](=[CH:7][CH:8]=[CH:9]1)[OH:6])[CH3:4].[OH:10]>>[CH3:1][C:2]1=[C:3]([C:5]([CH:7]([CH:8]=[CH:9]1)[OH:10])[OH:6])[CH3:4] 10-10,7; 5,7-10,7; 5,7-5",Room Temperature,Propagation,addition
"[H:3][O:2][O:1].[CH3:11][C:5](=[O:4])[CH:6]([CH2:9][OH:10])[O:7][O:8]>>[H:3][O:8][O:7][CH:6]([CH2:9][OH:10])[C:5](=[O:4])[CH3:11].[O:1][O:2] 8-8,3; 2,3-8,3; 2,3-2",Room Temperature,Propagation,abstraction
"CC(CO)O[O:20].[N+](=O)([O-])[O:10]>>CC(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCO[CH:10]CO.[O:20][O]>>CCO[CH:10](CO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:3][C:2](=[CH2:1])[CH:4]=[CH2:5].[Cl:6]>>[CH3:3][C:2]([CH2:1][Cl:6])[CH:4]=[CH2:5] 6-1,6;1,2-1,6;1,2-2",Room Temperature,Propagation,addition
"[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:8][O:9].[N:15]=[O:16]>>[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:8][O:9][N:15]=[O:16] 15-15,9; 9-15,9",Room Temperature,Termination,recombine
"CCCC(CO[O:20])O.[N:10]=O>>CCCC(CO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C=CC2C(C1(OO2)C)O)[O:21][O:20][O].[N+](=O)[O-]>>CC1(C=CC2C(C1(OO2)C)O)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]O[O].CC(C)C(=O)[O:10]>>[H:20][O:10]C(=O)C(C)C.[O:21]O[O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(C)(C)[O:20][O:21]N=O>>CCCC(C)(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][CH:22]C1C(O1)C=CC(=O)CC.[O:10][O]>>[H:20][O:10][O].CCC(=O)C=CC1C(O1)[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
[CH3:6][CH2:5][CH2:4][CH2:3][CH:2]([CH2:7][OH:8])[O:1].[N:10](=[O:11])[O:9]>>[CH3:6][CH2:5][CH2:4][CH2:3][CH:2]([CH2:7][OH:8])[O:1].[N+:10](=[O:11])[O-:9] 10-9,Room Temperature,Propagation,ha resonance
"[He:13].[CH3:7][C:4]([CH2:3][O:2][OH:1])([CH:8]([CH:11]=[O:12])[O:9][OH:10])[O:5][OH:6]>>[He:13].[CH3:7][C:4]([CH2:3][O:2][OH:1])([CH:8]([CH:11]=[O:12])[O:9][OH:10])[O:5].[OH:6] 5,6-5; 5,6-6",Room Temperature,Initiation,homolyze
"CCC(C)COO[O:20][N+:21](=O)[O-]>>CCC(C)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCC(C)(C)O[O:20].[N:10]=O>>CCCCC(C)(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
